US07902241B2
3-(2-Bromoacetylamino)benzoic acid methyl ester (8.09 g, 29.7 mmol) prepare above was mixed with potassium carbonate (4.93 g, 35.7 mmol) and 4-isopropylaniline (4.41 g, 32.7 mmol) in DMF (100 mL), and the mixture was stirred at room temperature overnight. The solvent was then removed in vacuum and the residue was suspended in dichloromethane. The solid was filtered off and the filtrate was concentrated to give crude product, which was chromatographed (silica gel, hexanes:ethyl acetate, 8:2) to give 3-[2-(3-isopropylphenylamino)acetylamino]benzoic acid methyl ester as a pale yellow oil (8.18 g, 84.5%). MS (ES+) m/z: 327.

reactant | 3-(2-Bromoacetylamino)benzoic acid methyl ester | 29.7 mmol, 8.09 g | COC(C1=CC(=CC=C1)NC(CBr)=O)=O | C10H10BrNO3
reactant | potassium carbonate | 35.7 mmol, 4.93 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-isopropylaniline | 32.7 mmol, 4.41 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 3-[2-(3-isopropylphenylamino)acetylamino]benzoic acid methyl ester | 8.18 g, 84.5% | COC(C1=CC(=CC=C1)NC(CNC1=CC(=CC=C1)C(C)C)=O)=O | C19H22N2O3
